US08084614B2
Step 1G: (5-Bromo-4-methylpyridin-2-yl)-N-t-butyl carboxylic amide
2,5-Dibromo-4-methylpyridine (1.83 g, 7.29 mmol) was dissolved in toluene (100 mL), cooled to −78° C. and a solution of nBuLi (4.4 mL, 8.8 mmol, 2.0 M in pentane) was added dropwise and stirred at −78° C. for 2 h. A solution of tBuNCO (1.1 mL, 9.5 mmol) in toluene (3 mL) was added dropwise and stirred for 1 h at −78° C. then warmed to −10° C. and quenched by addition of NH4Cl (aq). After warming to r.t. the reaction was extracted with ether and the organics dried over Na2SO4 and concentrated. The product was used without further purification. MS [M+H]+: 271.0; tR=2.44 min. (method 1)

reactant | 2,5-Dibromo-4-methylpyridine | 7.29 mmol, 1.83 g | BrC1=NC=C(C(=C1)C)Br | C6H5Br2N
reactant | nBuLi | 8.8 mmol, 2.0 M, 4.4 mL | [Li]CCCC
reactant | tBuNCO | 9.5 mmol, 1.1 mL | C(C)(C)(C)N=C=O | C5H9NO
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (5-Bromo-4-methylpyridin-2-yl)-N-t-butyl carboxylic amide | BrC=1C(=CC(=NC1)C(=O)NC(C)(C)C)C | C11H15BrN2O
